US06133258
The reaction procedure of Example 57 was followed except that 1.792 g (11.37 mmol) of 2-chloronicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 909 mg of ammonium thiocyanate, 15 ml of acetone, 1.61 g of N-methylphenethylamine and 10 ml of acetone were used. The product was then recrystallized from ethanol to obtain 1.91 g of 2-(N-methyl-N-phenethylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 11.37 mmol, 1.792 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 909 mg | [S-]C#N.[NH4+]
reactant | N-methylphenethylamine | 1.61 g | CNCCC1=CC=CC=C1 | C9H13N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(N-methyl-N-phenethylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 1.91 g | CN(CCC1=CC=CC=C1)C=1SC2=C(C(N1)=O)C=CC=N2 | C16H15N3OS
